US07026324B2
[6-Chloro-3-(2,2-difluoro-2-pyridin-2-yl-ethylamino)-2-oxo-2H-pyrazin-1-yl]-acetic acid ethyl ester (17-12)
A stirred solution of 6.81 g (20.1 mmol) of [3-(2,2-difluoro-2-pyridin-2-yl-ethylamino)-2-oxo-2H-pyrazin-1-yl]-acetic acid ethyl ester and 2.42 g (18.1 mmol) of N-chlorosuccinimide in 100 mL of 1,2-dichloroethane was heated to reflux. An additional 242 mg (1.81 mmol) and 75 mg (0.56 mmol) of NCS were added to the reaction mixture after 1 h and 1.5 h, respectively. After 2.5 h total, the solution was cooled to room temperature and partitioned between dichloromethane (150 mL) and sat. aq. NaHCO3 (200 mL). The layers were separated and the aqueous phase was backwashed with dichloromethane (2×200 mL). The combined organic layers were dried over MgSO4 and the solution concentrated to a volume of 10 mL. This liquid was directly loaded onto a SiO2 column and eluted with 65:35 to 55:45 hexane-EtOAc to give the title compound as a yellow solid: 1H NMR (CDCl3) δ 8.68 (d, 1H, 4.8, Hz), 7.83 (ddd,1H, 7.7, 7.7, 1.6 Hz), 7.9 (dd, 1H, 7.9 Hz), 7.40 (dd, 1H, 4.9, 7.3 Hz), 6.96 (s, 1H), 6.49 (br t, 1H, 5.9 Hz), 4.89 (s, 2H), 4.38 (td, 2H, 13.9, 6.5 Hz), 4.26 (q, 2H, 7.1 Hz), 1.30 (t, 3H, 7.1 Hz).

reactant | [3-(2,2-difluoro-2-pyridin-2-yl-ethylamino)-2-oxo-2H-pyrazin-1-yl]-acetic acid ethyl ester | 20.1 mmol, 6.81 g | C(C)OC(CN1C(C(=NC=C1)NCC(C1=NC=CC=C1)(F)F)=O)=O | C15H16F2N4O3
reactant | N-chlorosuccinimide | 18.1 mmol, 2.42 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | NCS | 0.56 mmol, 75 mg | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | 1,2-dichloroethane | 100 mL | ClCCCl | C2H4Cl2
product | [6-Chloro-3-(2,2-difluoro-2-pyridin-2-yl-ethylamino)-2-oxo-2H-pyrazin-1-yl]-acetic acid ethyl ester | C(C)OC(CN1C(C(=NC=C1Cl)NCC(C1=NC=CC=C1)(F)F)=O)=O | C15H15ClF2N4O3
